US05559111
5(S)-Amino-4(S)-hydroxy-7(S)-isopropyl-2(R)-methyl-8-[4-methoxy-3-(3-methoxypropyloxy)-phenyl]-octanoic acid N-[2-(4-hydroxypiperidin-1-yl)ethyl]amide dihydrochloride
100 mg of 5(S)-tert-butoxycarbonylamino-4(S)-hydroxy-7(S)-isopropyl-2(R)-methyl-8-[4-methoxy-3-(3-methoxypropyloxy)-phenyl]-octanoic acid N-[2-(4-hydroxy-piperidin-1-yl)-ethyl]-amide are dissolved in 3 ml of 4N hydrochloric acid in dioxane at 0° C., and the mixture is stirred for 2 hours at 0° C. The reaction mixture is lyophilised and the title compound is obtained: Rf (dichloromethane/methanol=8:2)=0.08; HPLC Rt =8.85 minutes; FAB-MS (M+H)+ =552.

reactant | 5(S)-tert-butoxycarbonylamino-4(S)-hydroxy-7(S)-isopropyl-2(R)-methyl-8-[4-methoxy-3-(3-methoxypropyloxy)-phenyl]-octanoic acid N-[2-(4-hydroxy-piperidin-1-yl)-ethyl]-amide | 100 mg | OC1CCN(CC1)CCNC([C@@H](C[C@@H]([C@H](C[C@H](CC1=CC(=C(C=C1)OC)OCCCOC)C(C)C)NC(=O)OC(C)(C)C)O)C)=O | C35H61N3O8
reactant | hydrochloric acid | 4N, 3 ml | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 5(S)-Amino-4(S)-hydroxy-7(S)-isopropyl-2(R)-methyl-8-[4-methoxy-3-(3-methoxypropyloxy)-phenyl]-octanoic acid N-[2-(4-hydroxypiperidin-1-yl)ethyl]amide dihydrochloride | Cl.Cl.OC1CCN(CC1)CCNC([C@@H](C[C@@H]([C@H](C[C@H](CC1=CC(=C(C=C1)OC)OCCCOC)C(C)C)N)O)C)=O | InChI=1S/C30H53N3O6.2ClH/c1-21(2)24(18-23-7-8-28(38-5)29(19-23)39-16-6-15-37-4)20-26(31)27(35)17-22(3)30(36)32-11-14-33-12-9-25(34)10-13-33;;/h7-8,19,21-22,24-27,34-35H,6,9-18,20,31H2,1-5H3,(H,32,36);2*1H/t22-,24+,26+,27+;;/m1../s1
